US07022460B2
4-Hydroxy-3-bromo-4′-cyanoazobenzene
18.8 g 4-cyanoaniline are heated at 60° C. in 100 ml water. To dissolve the solid, 10 ml conc. hydrochloric acid are added. A further 115 ml hydrochloric acid are then added, the temperature of the solution is brought to 0° C., 52 g nitrosylsulfuric acid are slowly added dropwise and the mixture is stirred for 1 h. This solution is slowly added dropwise to a solution of 27.5 g 2-bromophenol, 100 ml methanol and 100 ml water at 10° C. A pH of 6–6.5 is maintained by simultaneous addition of 10% sodium hydroxide solution. When the addition is complete, the stirred mass is allowed to react for a further hour and the precipitate is filtered off with suction. The product is then washed with water and dried. The yield of 4-hydroxy-3-bromo-4′-cyanoazobenzene is 68 g.

reactant | 4-cyanoaniline | 18.8 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | hydrochloric acid | 115 ml | Cl | ClH
reactant | nitrosylsulfuric acid | 52 g | N(=O)OS(O)(=O)=O | HNO5S
reactant | 2-bromophenol | 27.5 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 4-Hydroxy-3-bromo-4′-cyanoazobenzene | OC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)C#N)Br | C13H8BrN3O
